US07071337B2
N1-[8-(tert-Butyl-dimethyl-silanyloxy)-quinolin-2-yl]-4-methoxy-benzene-1,2-diamine
([8-(tert-Butyl-dimethyl-silanyloxy)-quinolin-2-yl]-(4-methoxy-2-nitro-phenyl)-amine C (21.9 g, 51.3 mmol) was dissolved in 200 mL ethanol (EtOH) and 70 mL of THF under an atmosphere of dry N2. To this solution was added 10% palladium on carbon (2.18 g) followed by the dropwise addition of 10 mL of anhydrous hydrazine. The reaction mixture was stirred at ambient temperature for 2 hours after which time it was filtered through Celite™ and the Celite™ washed with DCM. The combined filtrates were concentrated under vacuum and the resulting residue was partitioned between DCM and aqueous saturated NaHCO3. The DCM layer was then washed again with saturated NaHCO3 and then brine, dried over Na2SO4, filtered and concentrated under vacuum to give 18.3 g of a tan solid as the title compound D.

reactant | [8-(tert-Butyl-dimethyl-silanyloxy)-quinolin-2-yl]-(4-methoxy-2-nitro-phenyl)-amine | C(C)(C)(C)[Si](OC=1C=CC=C2C=CC(=NC12)NC1=C(C=C(C=C1)OC)[N+](=O)[O-])(C)C | C22H27N3O4Si
reactant | THF | 70 mL | C1CCOC1 | C4H8O
reactant | hydrazine | 10 mL | NN | H4N2
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 2.18 g | [Pd] | Pd
product | N1-[8-(tert-Butyl-dimethyl-silanyloxy)-quinolin-2-yl]-4-methoxy-benzene-1,2-diamine | 18.3 g | C(C)(C)(C)[Si](OC=1C=CC=C2C=CC(=NC12)NC=1C(=CC(=CC1)OC)N)(C)C | C22H29N3O2Si
